US08183380B2
8-(Imidazole-1-sulfonyl)-2-oxa-8-aza-spiro[4.5]decane was prepared in accordance with step A of the general method described in example 76 from 2-oxa-8-aza-spiro[4.5]decane hydrochloride and 3-(1H-imidazol-1-ylsulfonyl)-1-methyl-1H-imidazolium trifluoromethanesulfonate; MS: m/e=216.5 (M+H+).

reactant | 2-oxa-8-aza-spiro[4.5]decane hydrochloride | Cl.C1OCCC12CCNCC2
reactant | 3-(1H-imidazol-1-ylsulfonyl)-1-methyl-1H-imidazolium trifluoromethanesulfonate | FC(S(=O)(=O)[O-])(F)F.N1(C=NC=C1)S(=O)(=O)N1C[NH+](C=C1)C
product | 8-(Imidazole-1-sulfonyl)-2-oxa-8-aza-spiro[4.5]decane | N1(C=NC=C1)S(=O)(=O)N1CCC2(CCOC2)CC1 | C11H17N3O3S
